US05254595
Operating as described in Example 27, but starting from 8-acetylmethoxy-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril, prepared by reacting 5,8-dihydroxy-3,4-dihydrocarbostyril with bromoacetone in the presence of potassium carbonate and in a mixture water/acetone 4/1, at the reflux temperature for 5 hours, and 2-aminotetralin (1.48 g) in absolute ethanol (30 ml), N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(8-acetylmethoxy-3,4-dihydrocarbostyril-5-yloxy)propanamine hydrochloride is obtained ((iF): R=H, L"=acetonyloxy, E" and G", taken together, represent a group --CH2 --CH2 --CO--NH--, and the chain is attached to position 2 of the tetralin moiety).

reactant | 8-acetylmethoxy-5-(2,3-epoxypropoxy)-3,4-dihydrocarbostyril | C(C)(=O)COC=1C=CC(=C2CCC(NC12)=O)OCC1CO1 | C15H17NO5
reactant | 5,8-dihydroxy-3,4-dihydrocarbostyril | OC1=C2CCC(NC2=C(C=C1)O)=O | C9H9NO3
reactant | bromoacetone | BrCC(C)=O | C3H5BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | N-(1,2,3,4-tetrahydronaphth-2-yl)-2-hydroxy-3-(8-acetylmethoxy-3,4-dihydrocarbostyril-5-yloxy)propanamine hydrochloride | Cl.C1C(CCC2=CC=CC=C12)NCC(COC1=C2CCC(NC2=C(C=C1)OCC(C)=O)=O)O
solvent | water acetone | O.CC(=O)C
product | 2-aminotetralin | 1.48 g | NC1CC2=CC=CC=C2CC1 | C10H13N
